US07687664B2
1.01 g of t-butyl N-[2-benzyloxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl]carbamate, 593 mg of methyl 3-bromo-6-methylbenzoate, 130 mg of dichloro-bistriphenyl phosphinoferrocene palladium and 1 g of potassium carbonate were dissolved in 15 ml of dimethoxyethane, and the mixture was heated under reflux for 4 hours in a nitrogen atmosphere. The reaction mixture was filtered through Celite, and the filtrate was evaporated. The residue was purified by silica gel column, to give methyl 3-(3-{[(t-butoxycarbonyl)amino]methyl}-4-benzyloxyphenyl)-6-methylbenzoate in the 4:1 hexane-ethyl acetate fraction. This crude product was dissolved in 100 ml of methanol, then 500 mg of 10% Pd—C was added thereto, and the mixture was stirred overnight at room temperature in a hydrogen atmosphere. The reaction mixture was filtered through Celite, and the filtrate was concentrated. The residue was purified by silica gel column, to give 521 mg of the title compound in the 5:1 hexane-ethyl acetate fraction.

reactant | t-butyl N-[2-benzyloxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl]carbamate | 1.01 g | C(C1=CC=CC=C1)OC1=C(CNC(OC(C)(C)C)=O)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C25H34BNO5
reactant | methyl 3-bromo-6-methylbenzoate | 593 mg | BrC=1C=C(C(=O)OC)C(=CC1)C | C9H9BrO2
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 15 ml | C(OC)COC | C4H10O2
product | methyl 3-(3-{[(t-butoxycarbonyl)amino]methyl}-4-benzyloxyphenyl)-6-methylbenzoate | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1OCC1=CC=CC=C1)C=1C=C(C(=O)OC)C(=CC1)C | C28H31NO5
